US08431596B2
1-(6-Bromo-4-methyl-pyridin-2-yl)-3-carboethoxy-thiourea
To a solution of 6-bromo-4-methyl-pyridin-2-ylamine (0.5 g, 2.67 mmol) in dichloromethane (20 ml) cooled to 5° C. was added ethoxycarbonyl isothiocyanate (0.32 ml, 2.67 mmol) dropwise over 15 min. The reaction mixture was then allowed to warm to room temperature at which it was stirred for 16 h. Evaporation in vacuo gave a solid that was collected by filtration and thoroughly washed with cyclohexane to give the desired product. Yield 0.59 g, 69%. LCMS MI: 317.92+319.94, RT: 5.05 min, Method: 2

reactant | 6-bromo-4-methyl-pyridin-2-ylamine | 2.67 mmol, 0.5 g | BrC1=CC(=CC(=N1)N)C | C6H7BrN2
reactant | ethoxycarbonyl isothiocyanate | 2.67 mmol, 0.32 ml | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(6-Bromo-4-methyl-pyridin-2-yl)-3-carboethoxy-thiourea | BrC1=CC(=CC(=N1)NC(=S)NC(=O)OCC)C | C10H12BrN3O2S
